US04332809
A mixture of ethyl 6-(4-nitrophenyl)-4H-pyran-4-one-2-carboxylate (59 g), 10% palladium-carbon (6 g), potassium carbonate (10 g) and dimethylformamide (400 ml) is shaken under hydrogen gas stream at room temperature under atmospheric pressure. After the reduction reaction is finished, the insoluble materials are removed by filtration, and thereto is added water. The precipitated crystals are collected by filtration to give ethyl 6-(4-aminophenyl)-4H-pyran-4-one-2-carboxylate (30 g). M.P. 190°-193° C.

reactant | ethyl 6-(4-nitrophenyl)-4H-pyran-4-one-2-carboxylate | 59 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C14H11NO6
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium-carbon | 6 g | [C].[Pd]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | ethyl 6-(4-aminophenyl)-4H-pyran-4-one-2-carboxylate | 30 g | NC1=CC=C(C=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C14H13NO4
